US07592361B2
Preparation of 1-(2-bromo-ethoxy)-2-methoxy-4-methyl-benzene
To a solution of 2-methoxy-4-methylphenol (1000 mg, 7.24 mmol) in DMF (40 mL) at rt was added sodium hydride (60% dispersion in mineral oil, 579 mg, 14.48 mmol). The reaction mixture was stirred for 1 h, then 1,2-dibromoethane (6.80 g, 136.18 mmol) was added. The resulting solution was heated at 50° C. for 24 h, then cooled to rt. The solution was treated with 2N HCl and extracted with EtOAc. The combined extracts were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by silica gel chromatography using a step gradient of 30 and 50% EtOAc/hexanes to give the title compound as a white solid (460 mg, 24%). GC/MS (EI) m/z 244 (M)+, RT 7.40 min.

reactant | 2-methoxy-4-methylphenol | 7.24 mmol, 1000 mg | COC1=C(C=CC(=C1)C)O | C8H10O2
reactant | sodium hydride | 14.48 mmol, 579 mg | [H-].[Na+]
reactant | 1,2-dibromoethane | 136.18 mmol, 6.80 g | BrCCBr | C2H4Br2
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-(2-bromo-ethoxy)-2-methoxy-4-methyl-benzene | 460 mg, 24% | BrCCOC1=C(C=C(C=C1)C)OC | C10H13BrO2
